US08211901B2
Preparation of 4-(aminomethyl)-N-(2-amino-4-fluorophenyl)benzamide
The title compound (186 mg, 72% yield) was prepared as a brown solid from 4-cyano-benzoic acid (294 mg, 2 mmol) and 4-fluoro-o-phenylenediamine (302 mg, 2.4 mmol) by an analogous procedure to that described in example 8. LC-MS (m/z) 260 (M+1).

reactant | 4-cyano-benzoic acid | 2 mmol, 294 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | 4-fluoro-o-phenylenediamine | 2.4 mmol, 302 mg | FC1=CC(=C(C=C1)N)N | C6H7FN2
product | 4-(aminomethyl)-N-(2-amino-4-fluorophenyl)benzamide | 186 mg, 72% yield | NCC1=CC=C(C(=O)NC2=C(C=C(C=C2)F)N)C=C1 | C14H14FN3O
